US04370340
To a solution of ethyl 2-oxo-5-chloro-6-phenyl-3-benzoxazolineacetate (1.5 g) in acetic acid (10 ml) was added conc.hydrochloric acid (5 ml). The reaction mixture was stirred at 60° C. for 1.5 hours and then cooled to ambient temperature. The resultant mixture was diluted with water to precipitate crystals, which were separated by filtration, washed with water, dried and then recrystallized from a mixture of chloroform and acetone to give 2-oxo-5-chloro-6-phenyl-3-benzoxazolineacetic acid.

reactant | ethyl 2-oxo-5-chloro-6-phenyl-3-benzoxazolineacetate | 1.5 g | O=C1OC2=C(N1CC(=O)OCC)C=C(C(=C2)C2=CC=CC=C2)Cl | C17H14ClNO4
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-oxo-5-chloro-6-phenyl-3-benzoxazolineacetic acid | O=C1OC2=C(N1CC(=O)O)C=C(C(=C2)C2=CC=CC=C2)Cl | C15H10ClNO4
